US06555541B1
a) [tert-Butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid methyl ester
To a solution of (3,4-difluorophenyl)-carbamic acid tert-butyl ester (Tetrahedron, (1992), 48(35), 7373) (15.1 g) in tetrahydrofuran (120 ml) at 0° C. was added potassium tert-butoxide (94 ml of a 1.0 M solution in tetrahydrofuran) dropwise. After stirring for 2 hr methyl bromoacetate (9.1 ml) was added dropwise and ice-bath removed and reaction mixture stirred at room temperature overnight. Reaction mixture concentrated under reduced pressure, diluted with ethyl acetate and washed with water and brine, dried (Na2SO4) and concentrated to leave the sub-title compound as a brown oil (18.0 g).

reactant | (3,4-difluorophenyl)-carbamic acid tert-butyl ester | 15.1 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)F)=O | C11H13F2NO2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | methyl bromoacetate | 9.1 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | [tert-Butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid methyl ester | 18.0 g | COC(CN(C1=CC(=C(C=C1)F)F)C(=O)OC(C)(C)C)=O | C14H17F2NO4
